US07105507B2
1,1-Dimethylethyl 4-(3-Ethoxy-3-oxoprop-1-yl)-4-hydroxy-1-piperidinecarboxylate
Palladium on carbon (5%, 1 g) in water (10 mL) was added to a solution of 1,1-dimethylethyl 4-(3-ethoxy-3-oxo-1-propynyl)-4-hydroxy-1-piperidinecarboxylate (Description 76, 14.6 g, 0.046 mol) in ethanol (200 mL) and the mixture was shaken under hydrogen (45 psi) for 90 minutes. The mixture was filtered through a glass fibre pad and the solvent was evaporated under reduced pressure to give the title compound. m/z (ES+) 302 (M+1).

reactant | 1,1-dimethylethyl 4-(3-ethoxy-3-oxo-1-propynyl)-4-hydroxy-1-piperidinecarboxylate | 0.046 mol, 14.6 g | C(C)OC(C#CC1(CCN(CC1)C(=O)OC(C)(C)C)O)=O | C15H23NO5
catalyst | Palladium on carbon | 1 g | [Pd] | Pd
solvent | water | 10 mL | O | H2O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 1,1-Dimethylethyl 4-(3-Ethoxy-3-oxoprop-1-yl)-4-hydroxy-1-piperidinecarboxylate | C(C)OC(CCC1(CCN(CC1)C(=O)OC(C)(C)C)O)=O | C15H27NO5
